US08119778B2
Preparation of the Starting Material 2-(4-nitrophenylazo-)-4-butylthio-1-naphthol
This is prepared similarly to Example 1 using 1.3 g (9.46 mmoles) of 4-nitro-aniline, 0.72 g (10.3 mmoles) of sodium nitrite, and 2 g (8.6 mmoles) of 4-butylthio-1-naphthol.

reactant | 4-nitro-aniline | 9.46 mmoles, 1.3 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | sodium nitrite | 10.3 mmoles, 0.72 g | N(=O)[O-].[Na+]
reactant | 4-butylthio-1-naphthol | 8.6 mmoles, 2 g | C(CCC)SC1=CC=C(C2=CC=CC=C12)O | C14H16OS
product | 2-(4-nitrophenylazo-)-4-butylthio-1-naphthol | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=C(C2=CC=CC=C2C(=C1)SCCCC)O | C20H19N3O3S
